US07098226B2
Next, sodium borohydride (0.18 g, 4.8 mmol) was added to a solution of 2-methoxycarbonylmethoxyacetic acid N-[2-(1-adamantyl)ethyl]-N-pentylamide (0.37 g, 0.96 mmol) in methanol (3 ml) under ice-cooling, and the mixture was stirred at room temperature overnight. Water (10 ml) was added to the reaction mixture, and the whole was stirred for 10 minutes. Then, water (20 ml) and ethyl acetate (30 ml) were added thereto, and layers were separated. The organic layer was washed with a saturated aqueous sodium chloride solution (10 ml) and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was purified by silica gel column chromatography to give 74 mg (22%) of 2-(2-hydroxyethoxy)acetic acid N-[2-(1-adamantyl)ethyl]-N-pentylamide as an oily matter.

reactant | sodium borohydride | 4.8 mmol, 0.18 g | [BH4-].[Na+]
reactant | 2-methoxycarbonylmethoxyacetic acid N-[2-(1-adamantyl)ethyl]-N-pentylamide | 0.96 mmol, 0.37 g | C12(CC3CC(CC(C1)C3)C2)CCN(C(COCC(=O)OC)=O)CCCCC | C22H37NO4
reactant | Water | 10 ml | O | H2O
reactant | water | 20 ml | O | H2O
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 3 ml | CO | CH4O
product | 2-(2-hydroxyethoxy)acetic acid N-[2-(1-adamantyl)ethyl]-N-pentylamide | 74 mg, 22% | C12(CC3CC(CC(C1)C3)C2)CCN(C(COCCO)=O)CCCCC | C21H37NO3
